US08802679B2
tert-Butyl 4-(5-bromopyridin-2-yl)piperazine-1-carboxylate (800 mg) was dissolved in DMF (4 ml), and ethyl acrylate (368 mg), palladium(II) acetate (27 mg), tris(2-methylphenyl)phosphine (290 mg), and DIPEA (1.26 g) were added thereto, followed by stirring at 100° C. for 3 hours. The reaction mixture was concentrated under reduced pressure, and then EtOAc was added thereto. The insoluble material was removed by filtration. The filtrate was concentrated under reduced pressure, and then the obtained residue was purified by silica gel column chromatography (hexane/EtOAc) to obtain tert-butyl 4-{5-[(1E)-3-ethoxy-3-oxoprop-1-en-1-yl]pyridin-2-yl}piperazine-1-carboxylate (790 mg).

reactant | tert-Butyl 4-(5-bromopyridin-2-yl)piperazine-1-carboxylate | 800 mg | BrC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20BrN3O2
reactant | ethyl acrylate | 368 mg | C(C=C)(=O)OCC | C5H8O2
reactant | tris(2-methylphenyl)phosphine | 290 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | DIPEA | 1.26 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 27 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl 4-{5-[(1E)-3-ethoxy-3-oxoprop-1-en-1-yl]pyridin-2-yl}piperazine-1-carboxylate | 790 mg | C(C)OC(/C=C/C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)=O | C19H27N3O4
